US04448776
A solution of 2.9 g of benzyl chloride in 25 ml of acetonitrile is added to 5.6 g of N-diphenylmethyl-ethylenediamine in 30 ml of boiling acetonitrile. The mixture is heated under reflux for 12 hours, concentrated and partitioned between diethyl ether and 10% sodium hydroxide solution. The organic phases are dried over sodium sulphate and concentrated by evaporation. The residue can be recrystallised from methanol or diisopropyl ether. N,N-dibenzyl-N'-diphenylmethyl-ethylenediamine having a melting point of 89°-91° C. is obtained.

reactant | benzyl chloride | 2.9 g | C(C1=CC=CC=C1)Cl | C7H7Cl
reactant | N-diphenylmethyl-ethylenediamine | 5.6 g | C1(=CC=CC=C1)C(NCCN)C1=CC=CC=C1 | C15H18N2
solvent | acetonitrile | 25 ml | C(C)#N | C2H3N
solvent | acetonitrile | 30 ml | C(C)#N | C2H3N
product | N,N-dibenzyl-N'-diphenylmethyl-ethylenediamine | C(C1=CC=CC=C1)N(CCNC(C1=CC=CC=C1)C1=CC=CC=C1)CC1=CC=CC=C1 | C29H30N2
